US06713474B2
A mixture of 4-amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidine (302 mg) was dissolved in dimethylacetamide (10 ml) and dichloromethane (50 ml) and then treated with N-bromosuccinimide (178 mg) in dichloromethane (10 ml). The mixture was left stirring ambient temperature for 16 hours. The mixture was evaporated under reduced pressure and the residue was triturated with water to give a solid which was collected by filtration and dried to give 4-amino-6-bromo-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidine, m.p. 282-283° C.

reactant | 4-amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidine | 302 mg | NC=1C2=C(N=CN1)NC=C2C2=CC=C(C=C2)OC2=CC=CC=C2 | C18H14N4O
reactant | N-bromosuccinimide | 178 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | dimethylacetamide | 10 ml | CC(=O)N(C)C | C4H9NO
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 4-amino-6-bromo-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidine | NC=1C2=C(N=CN1)NC(=C2C2=CC=C(C=C2)OC2=CC=CC=C2)Br | C18H13BrN4O
